US05703240
6-(4-Trifluoromethyl-phenyl)-piperdin-2,5-dione 5-oxime
Pyridine (47 ml) and hydroxylamine hydrochloride (8.18 g) were added to a stirring solution of 6-(4-trifluoromethyl-phenyl)-piperidin-2,5-dione (5.04 g) under nitrogen. The mixture was heated at reflux for 21 h, cooled to room temperature, poured into aqueous hydrochloric acid (2M, 100 ml) and extracted with ethyl acetate (100 ml). The organic extract was washed with aqueous hydrochloric acid (3×100 ml) and the combined aqueous solution was extracted with ethyl acetate (2×50 ml). The combined organic solution was dried (MgSO4) and evaporated in vacuo to give the crude product (5.84 g) which was azeotroped with toluene (3×50 ml). FCC (dichloromethane: methanol, 12:1) gave the title compound (3.26 g) as an inseparable mixture of geometrical isomers (2:1). δ (d6 -DMSO) for the major isomer: 2.0-2.4 (m, 4H), 5.15 (d, 1H, J=3.5 Hz), 7.49 and 7.75 (2d, 4H, J=8 Hz for both). 8.39 (d, 1H, J=3.5 Hz), 11.08 (s, 1H). 1H-NMR signals for the minor isomer includes 5.77 (d, 1H, J=2.5 Hz), 7.59 and 7.72 (2d, 4H, J=8 Hz for both), 8.10 (d, 1H, J=2.5 Hz), 11.14 (s, 1H).

reactant | hydroxylamine hydrochloride | 8.18 g | Cl.NO
reactant | 6-(4-trifluoromethyl-phenyl)-piperidin-2,5-dione | 5.04 g | FC(C1=CC=C(C=C1)C1C(CCC(N1)=O)=O)(F)F | C12H10F3NO2
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
solvent | Pyridine | 47 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-Trifluoromethyl-phenyl)-piperdin-2,5-dione 5-oxime | 3.26 g | FC(C1=CC=C(C=C1)C1C(CCC(N1)=O)=NO)(F)F | C12H11F3N2O2
